US07589088B2
A solution of diethyl 2-(2,4-dichlorobenzylidene)malonate (300 mg, 0.91 mmol) and benzamidine (134 mg, 0.91 mmol) in EtOH (3 mL) was heated to 60° C. for 2 hrs. The reaction was concentrated under reduced pressure. The resulting residue was dissolved in CH2Cl2 (4 mL) and DDQ (238 mg, 1.05 mmol) was added. After 1 hr, The reaction was diluted with cyclohexane/EtOAc solution (4:1, 100 mL) and the organic layer was extracted with saturated NaHCO3 solution (2×60 mL), brine (50 mL). The organic layer dried (MgSO4), filtered and concentrated under reduced pressure to give ethyl 4-(2,4-dichlorophenyl)-6-oxo-2-phenyl-1,6-dihydropyrimidine-5-carboxylate (372 mg, 100%) as a yellow solid. This product was moved onto next step without further purification.

reactant | diethyl 2-(2,4-dichlorobenzylidene)malonate | 0.91 mmol, 300 mg | ClC1=C(C=C(C(=O)OCC)C(=O)OCC)C=CC(=C1)Cl | C14H14Cl2O4
reactant | benzamidine | 0.91 mmol, 134 mg | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | DDQ | 1.05 mmol, 238 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | cyclohexane EtOAc | 100 mL | C1CCCCC1.CCOC(=O)C
product | ethyl 4-(2,4-dichlorophenyl)-6-oxo-2-phenyl-1,6-dihydropyrimidine-5-carboxylate | 372 mg, 100% | ClC1=C(C=CC(=C1)Cl)C=1N=C(NC(C1C(=O)OCC)=O)C1=CC=CC=C1 | C19H14Cl2N2O3
